US07935715B2
To a solution of 160 mg (0.55 mmol) of 2-bromo-N-(5-tert-butyl-isoxazol-3-yl)-2-methyl-propionamide in DMF (3 mL) were added 181 mg (0.71 mmol) of 4-methanesulfonyl-benzenesulfinic acid sodium salt in one portion. Pyridine (48 μL) was added and the reaction was stirred at 50° C. for 18 h. The mixture was acidified with 1M aqueous HCl solution (1 mL) and extracted with diethyl ether (3×3 mL). The combined organic layers were dried over Na2SO4 and the solvent removed under reduced pressure. The crude material was purified by column chromatography (silica, eluent heptanes, 0-20% ethyl acetate) to afford 47 mg of N-(5-tert-butyl-isoxazol-3-yl)-2-(4-methanesulfonyl-benzenesulfonyl)-2-methyl-propionamide.

reactant | 2-bromo-N-(5-tert-butyl-isoxazol-3-yl)-2-methyl-propionamide | 0.55 mmol, 160 mg | BrC(C(=O)NC1=NOC(=C1)C(C)(C)C)(C)C | C11H17BrN2O2
reactant | 4-methanesulfonyl-benzenesulfinic acid sodium salt | 0.71 mmol, 181 mg | [Na+].CS(=O)(=O)C1=CC=C(C=C1)S(=O)[O-]
reactant | Pyridine | 48 μL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1M, 1 mL | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(5-tert-butyl-isoxazol-3-yl)-2-(4-methanesulfonyl-benzenesulfonyl)-2-methyl-propionamide | 47 mg | C(C)(C)(C)C1=CC(=NO1)NC(C(C)(C)S(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C)=O | C18H24N2O6S2
